US07820654B2
Preparation of 1-(6-chloro-2-phenyl pyrimidin-4-yl)-piperidin-4-ol
To a solution of 4,6-dichloro-2-phenyl pyrimidine (1 g. 4.42 mmol) and triethyl mol amine (1.78 g, 17.6 mmol) in n-butanol (10 mL) was added 4-hydroxy piperidine (0.44 g, 4.4 mmol) to temperature in the range of 20-40° C. with stirring. The mixture was then stirred under reflux for 16 hours under nitrogen. The mixture was cooled to room temperature, poured into water (25 mL) and extracted with EtOAc (2×15 mL). Organic layers were collected, combined dried over anhydrous Na2SO4 and concentrated under vacuum. The residue was purified by column chromatography using EtOAc-pet ether to give the desired compound (1.15 g, 91% yield).

reactant | 4,6-dichloro-2-phenyl pyrimidine | 4.42 mmol, 1 g | ClC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C10H6Cl2N2
reactant | 4-hydroxy piperidine | 4.4 mmol, 0.44 g | OC1CCNCC1 | C5H11NO
reactant | water | 25 mL | O | H2O
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | 1-(6-chloro-2-phenyl pyrimidin-4-yl)-piperidin-4-ol | 1.15 g, 91% yield | ClC1=CC(=NC(=N1)C1=CC=CC=C1)N1CCC(CC1)O | C15H16ClN3O
